US09102591B2
(+)-2-Chloro-N-[3-cyclopropyl-2-[6-(trifluoromethyl)-3-pyridyl]propyl]-3-(trifluoromethyl)benzamide
The racemic mixture which was prepared in a similar manner to example 3a from 2-chloro-3-trifluoromethylbenzoic acid and 3-cycl opropyl-2-(6-trifluoromethyl-pyridin-3-yl)-propylamine was separated into the two enantiomers by preparative SFC to yield the title compound. LCMS (MH+): m/z=451.1, tR (minutes, Method G)=3.11. [α]D20=+26.0 (c=2.0 mg/mL,CHCl3)

reactant | 2-chloro-3-trifluoromethylbenzoic acid | ClC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4ClF3O2
reactant | 3-cycl opropyl-2-(6-trifluoromethyl-pyridin-3-yl)-propylamine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F | C12H15F3N2
product | (+)-2-Chloro-N-[3-cyclopropyl-2-[6-(trifluoromethyl)-3-pyridyl]propyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1C(F)(F)F | C20H17ClF6N2O
